US08497264B2
Bromine (0.072 ml, 1.4 mmol) was added to a suspension of zinc dust (1.41 g, 21.57 mmol) in diethyl ether (25 ml) at RT. After 5 minutes, ethyl 2-bromoacetate (1.202 ml, 10.8 mmol) was added drop wise over a time period of 10 minutes and the reaction mixture was heated to reflux for 2 hours. 7-Bromo-3-chloro-5H-chromeno[2,3-c]pyridin-5-one (2 g, 6.44 mmol) was added in one portion, followed by THF (25.00 ml) and the reaction mixture was heated to reflux for 30 minutes. The reaction mixture was quenched with aqueous saturated NH4Cl solution (20 mL) and water (20 mL) and stirred 30 min at RT. The solution was filtered and the organic phase was separated. The solvent was removed under educed pressure to afford ethyl 2-(7-bromo-3-chloro-5-hydroxy-5H-chromeno[2,3-c]pyridin-5-yl)acetate (2.5 g, 6.27 mmol, 97% yield).

reactant | Bromine | 1.4 mmol, 0.072 ml | BrBr | Br2
reactant | ethyl 2-bromoacetate | 10.8 mmol, 1.202 ml | BrCC(=O)OCC | C4H7BrO2
reactant | 7-Bromo-3-chloro-5H-chromeno[2,3-c]pyridin-5-one | 6.44 mmol, 2 g | BrC=1C=C2C(C3=C(C=NC(=C3)Cl)OC2=CC1)=O | C12H5BrClNO2
reactant | THF | 25.00 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
catalyst | zinc | 21.57 mmol, 1.41 g | [Zn] | Zn
product | ethyl 2-(7-bromo-3-chloro-5-hydroxy-5H-chromeno[2,3-c]pyridin-5-yl)acetate | 6.27 mmol, 2.5 g, 97% yield | BrC=1C=C2C(C3=C(C=NC(=C3)Cl)OC2=CC1)(O)CC(=O)OCC | C16H13BrClNO4
